US05914324
A solution of 3β-tert-butyldimethylsilyloxy-5α-androstan-6α,17β-diol (II-a, Prep. 1) (20 g) and acetic anhydride (25 mL) in anhydrous pyridine (50 mL) was stirred at room temperature 24 hrs. The mixture was then poured into ice and water and extracted with ethyl acetate to give after usual workup crude 3β-tert-butyldimethylsilyloxy-6α,17β-diacetoxy-5α-androstane, [23 g, 1H-NMR (300 MHz, CDCl3, ppm from TMS): 4.67 (1H, dd), 4.58 (1H, t), 3.50 (1H, hept)], used as such in the next reaction without further purification. This intermediate was deprotected with tetrabutylammonium fluoride (21 g) in THF (350 mL), to give 6α,17β-diacetoxy-5α-androstan-3β-ol [18 g, 1H-NMR (300 MHz, CDCl3, ppm from TMS): 4.67 (1H, dd), 4.58 (1H, t), 3.55 (1H, hept)], used as such in the next reaction without further purification. A solution of 6α,17β-diacetoxy-5α-androstan-3β-ol (18 g) and o-iodoxybenzoic acid (27 g) in dimethylsulfoxide (180 mL) was stirred at room temperature overnight, then diluted with water (1.5 L) and diethyl ether (400 mL) and filtered. The two layers were separated, the waters extracted with diethyl ether (3×200 mL), the combined organic layers dried over sodium sulfate and evaporated to dryness under reduced pressure, to give 17 g of 6α,17β-diacetoxy-5α-androstan-3-one. The crude residue was dissolved in methanol (380 mL) and sodium hydroxide (4N, 125 mL), was stirred at room temperature for 1 hr. It was then evaporated to dryness under reduced pressure, the residue dissolved in dichloromethane (600 mL) and water (5000 mL). The two layers were separated and the water extracted with dichloromethane (3×100 mL). The combined organic layers were washed with hydrochloric acid (1N) and water, dried over sodium sulfate and evaporated under reduced pressure to give 15 g of a crude residue, that was purified by flash-chromatography (SiO2 ; chloroform/methanol 99/1) to give 12 g of 3-oxo-5α-androstan-6α,17β-diol (II-b) as a white solid, mp 195-205° C.

reactant | 3β-tert-butyldimethylsilyloxy-5α-androstan-6α,17β-diol | 20 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H]2[C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)O | C25H46O3Si
reactant | acetic anhydride | 25 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
reactant | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 3β-tert-butyldimethylsilyloxy-6α,17β-diacetoxy-5α-androstane | 23 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H]2[C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OC(C)=O)OC(C)=O | C29H50O5Si
